US08026234B2
4-Amino-2-fluoro-5-methoxybenzoic acid:
A solution of 2-fluoro-5-methoxy-4-nitrobenzoic acid (10 g, 46 mmol), HOAc (50 mL) and MeOH (50 mL) was hydrogenated using a hydrogen balloon overnight. The solution was then filtered through celite and concentrated to a residue, which was triturated with ether and ethyl acetate. The solid was filtered and dried to give the product as light yellow powder (8.3 g, 98%). 1H NMR (400 MHz, DMSO-d6) δ ppm 3.76 (s, 3H) 5.88 (br s, 2H) 6.36 (d, J=16 Hz, 1H) 7.13 (d, J=8 Hz, 1H) 12.32 (br s, 1H). [M+H] calc'd for C8H8FNO3, 186. found 186.

reactant | 2-fluoro-5-methoxy-4-nitrobenzoic acid | 46 mmol, 10 g | FC1=C(C(=O)O)C=C(C(=C1)[N+](=O)[O-])OC | C8H6FNO5
reactant | HOAc | 50 mL | CC(=O)O | C2H4O2
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 50 mL | CO | CH4O
product | 4-Amino-2-fluoro-5-methoxybenzoic acid | 8.3 g, 98% | NC1=CC(=C(C(=O)O)C=C1OC)F | C8H8FNO3
